US05468721
1.0 g of 6-chloro-2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoic acid was dissolved in 20 ml of tetrahydrofuran and cooled with ice. 0.35 g of triethylamine dissolved in 1 ml of tetrahydrofuran and 0.40 g of ethyl chloroformate dissolved in 1 ml of tetrahydrofuran were added thereto, and the mixture was stirred under ice cooling for about 30 minutes. Then, a solution of 1 g of ethanol and 0.35 g of triethylamine in 2 ml of tetrahydrofuran was added, and the temperature was raised up to room temperature in about one hour. After the removal of the solvent, the residue was purified using column chromatography to obtain 1.0 g of ethyl 6-chloro-2-[(4,6-dimethoxy-2-pyrmidyl)methyloxy]benzoate (yield 92%).

reactant | 6-chloro-2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoic acid | 1.0 g | ClC1=CC=CC(=C1C(=O)O)OCC1=NC(=CC(=N1)OC)OC | C14H13ClN2O5
reactant | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.40 g | ClC(=O)OCC | C3H5ClO2
reactant | ethanol | 1 g | C(C)O | C2H6O
reactant | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | ethyl 6-chloro-2-[(4,6-dimethoxy-2-pyrmidyl)methyloxy]benzoate | 1.0 g, yield 92% | ClC1=CC=CC(=C1C(=O)OCC)OCC1=NC(=CC(=N1)OC)OC | C16H17ClN2O5
